US06046229
In a 2-neck flask was placed 1,4-dibromobenzene (13.5 g, 57 mmol) with catalyst Pd(PPh3)4 and added 30 mL of benzene and 6 mL of 2 M Na2CO3 aqueous solution. The mixture was then added a methanol solution of dihydroxy-(2-(5-formyl-furyl))borane (2 g, 14 mmol) and heated at reflux for 12 hrs. TLC showed 2 fluorescent spots. The less polar spot was identified as desired dimer product. The mixture was extracted with ether. The combined ether extracts were dried with anhydrous MGSO4 and concentrated. Chromatograph yielded 30% of 1-bromo-4-(2-formylfuryl)benzene. 1H NMR (CDCl3, 200 MHz): δ6.82 (d, J=3.8 Hz, 1H), 7.29 (d, J=3.8 Hz, 1H), 7.45~7.72 (AA'BB', 4H), 9.64 (s, 1H).

reactant | 1,4-dibromobenzene | 57 mmol, 13.5 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | benzene | 30 mL | C1=CC=CC=C1 | C6H6
reactant | Na2CO3 | 2 M, 6 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methanol | CO | CH4O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-bromo-4-(2-formylfuryl)benzene | 30% | BrC1=CC=C(C=C1)C1=C(OC=C1)C=O | C11H7BrO2
